US07662771B2
Add sodium carbonate (4.5 g, 42 mmol) to a solution of commercially available 5-cyano-pentanoic acid methyl ester (5.0 g, 35 mmol) and hydroxylamine hydrochloride (2.9 g, 42 mmol) in ethanol (100 mL) at room temperature under nitrogen and heat the mixture at reflux for 5.5 h. Filter the mixture through celite and remove the solvent under reduced pressure to provide crude methyl 5-(N-hydroxycarbamimidoyl)pentanoate (5.3 g, 87% yield), which is carried forward without further purification.

reactant | sodium carbonate | 42 mmol, 4.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-cyano-pentanoic acid methyl ester | 35 mmol, 5.0 g | COC(CCCCC#N)=O | C7H11NO2
reactant | hydroxylamine hydrochloride | 42 mmol, 2.9 g | Cl.NO
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | methyl 5-(N-hydroxycarbamimidoyl)pentanoate | 5.3 g, 87% yield | ONC(=N)CCCCC(=O)OC | C7H14N2O3
